US08372866B2
c) 2-(6-methoxypyridin-3-yl)-3-benzyloxy-6-amino-4H-1-benzopyran-4-one
To a suspension of 2-(6-methoxypyridin-3-yl)-3-benzyloxy-6-(N-tertbutoxycarbonylamino)-4H-1-benzopyran-4-one (0.067 mol) in DCM (90 ml) trifluoroacetic acid (30 ml) was added. The mixture was stirred for 1 hour at r.t. and concentrated. Aqueous NaHCO3 was added and the mixture was extracted with ethyl acetate, washed with water, dried, and concentrated. The solid was suspended in ethyl ether, filtered and dried. Yield: 78%; TLC (9/1 Chloroform/Methanol) Rf: 0.56.

reactant | 2-(6-methoxypyridin-3-yl)-3-benzyloxy-6-(N-tertbutoxycarbonylamino)-4H-1-benzopyran-4-one | 0.067 mol | COC1=CC=C(C=N1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(=O)OC(C)(C)C | C27H26N2O6
solvent | DCM | 90 ml | C(Cl)Cl | CH2Cl2
product | 2-(6-methoxypyridin-3-yl)-3-benzyloxy-6-amino-4H-1-benzopyran-4-one | Yield: 78% | COC1=CC=C(C=N1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)N | C22H18N2O4
